US07405228B2
(S)-N-{3-[4-(4-(1-cyano-cyclopropylmethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The mixture of (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (2.86 mmol), cyclopropylacetonitrile (5.73 mmol), ammonium acetate (catalytic) in 100 ml of toluene was heated at reflux temperature for 5 to 6 hours. The reaction mixture was cooled to room temperature and extracted with ethyl acetate water mixture, dried and evaporated to give crude product. The crude product was recrystallized from ethyl acetate to furnish title compound in 69% yield.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 2.86 mmol | O=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H20FN3O4
reactant | cyclopropylacetonitrile | 5.73 mmol | C1(CC1)CC#N | C5H7N
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-N-{3-[4-(4-(1-cyano-cyclopropylmethylidene)-piperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 69% yield | C(#N)C1(CC1)C=C1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F | C22H25FN4O3
